US07144899B2
To a stirred solution of 5-chloro-2-(1,2,5-thiadiazol-3-yl)benzylammonium trifluoroacetate (40.9 mg, 0.13 mmol), 1-{(2R)-2-[(tert-butoxycarbonyl)amino]-2-cyclohexylethanoyl}-L-proline (prepared by standard peptide coupling protocols, 45.0 mg, 0.13 mmol), HOAt (22.5 mg, 0.17 mmol) and N-methylmorpholine (0.03 mL, 0.25 mmol) in DMF (0.5 mL) was added EDC (31.7 mg, 0.17 mmol). After 16 h the solution was partitioned between EtOAc and water. The organic phase was washed with brine, dried (Na2SO4) and reduced in vacuo. 1-{(2R)-2-[(tert-Butoxycarbonyl)amino]-2-cyclohexylethanoyl}-N-[5-chloro-2-(1,2,5-thiadiazol-3-yl)benzyl]-L-prolinamide was obtained as an oil. MS m/z=562.6.

reactant | 5-chloro-2-(1,2,5-thiadiazol-3-yl)benzylammonium trifluoroacetate | 0.13 mmol, 40.9 mg | FC(C(=O)[O-])(F)F.ClC=1C=CC(=C(C[NH3+])C1)C1=NSN=C1
reactant | 1-{(2R)-2-[(tert-butoxycarbonyl)amino]-2-cyclohexylethanoyl}-L-proline | 0.13 mmol, 45.0 mg | C(C)(C)(C)OC(=O)N[C@@H](C(=O)N1[C@H](C(=O)O)CCC1)C1CCCCC1 | C18H30N2O5
reactant | HOAt | 0.17 mmol, 22.5 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | N-methylmorpholine | 0.25 mmol, 0.03 mL | CN1CCOCC1 | C5H11NO
reactant | EDC | 0.17 mmol, 31.7 mg
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 1-{(2R)-2-[(tert-Butoxycarbonyl)amino]-2-cyclohexylethanoyl}-N-[5-chloro-2-(1,2,5-thiadiazol-3-yl)benzyl]-L-prolinamide | C(C)(C)(C)OC(=O)N[C@@H](C(=O)N1[C@H](C(=O)NCC2=C(C=CC(=C2)Cl)C2=NSN=C2)CCC1)C1CCCCC1 | C27H36ClN5O4S
